US08003649B2
A mixture of 3-chloropyridazin-6-yl hydrazine (5.0 g, 34.72 mmol) and difluoroacetic acid (21.93 mL; ca. 347 mmol) was heated at 100° C. for 3 hours and then evaporated to dryness. The involatile residue was dissolved in ethyl acetate (200 mL) and washed sequentially with saturated aqueous sodium carbonate and then saturated brine. The organic phase was dried over MgSO4, filtered, and evaporated to give 6-chloro-3-difluoromethyl-[1,2,4]-triazolo[4,3-b]pyridazine (6.0 g, 84.7%) as a white solid that was used without further purification.

reactant | 3-chloropyridazin-6-yl hydrazine | 34.72 mmol, 5.0 g | ClC=1N=NC(=CC1)NN | C4H5ClN4
reactant | difluoroacetic acid | ca. 347 mmol, 21.93 mL | FC(C(=O)O)F | C2H2F2O2
product | 6-chloro-3-difluoromethyl-[1,2,4]-triazolo[4,3-b]pyridazine | 6.0 g, 84.7% | ClC=1C=CC=2N(N1)C(=NN2)C(F)F | C6H3ClF2N4
